US06962914B2
To a solution of 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (0.1 g, 0.25 mmol) in cyclopentylamine (5 mL) was added racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (46 mg, 0.08 mmol), cesium carbonate (120 mg, 0.38 mmol) and palladium (II) acetate (11 mg, 0.05 mmol). The resulting mixture was stirred at 80° C. for 24 hours, at which time the reaction was judged complete by thin layer chromatography. The solution was cooled to room temperature and ethyl acetate and water were added to the reaction mixture. The phases were separated, and the aquous phase again extracted with ethyl acetate. The combined organics were dried (magnesium sulfate), filtered and concentrated. The resulting residue was purified by flash chromatography (1:1 hexanes-ethyl acetate) to give N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridin-5-amine (78 mg, 70%) as a white solid. 1H-NMR (CDCl3): δ 8.16 (d, 1H), 7.95 (d, 1H), 7.58 (q, 2H), 7.38 (d, 1H), 7.12 (t, 2H), 6.24 (dd, 1H), 6.20 (d, 1H), 5.05 (d, 1H), 4.40 (m, 1H), 4.13 (m, 1H), 3.89 (m, 1H), 1.5-2.2 (m, 16H); 19F-NMR (CDCl3): δ−113.7; MS m/z 457 (M+1).

reactant | 4-[5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.25 mmol, 0.1 g | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.08 mmol, 46 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.38 mmol, 120 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 0.05 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridin-5-amine | 78 mg, 70% | C1(CCCC1)NC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C27H29FN6
